US09353107B2
Step-iii: 5-(5-fluoro-6-(piperazin-1-yl)pyridin-3-yl)-3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(3-fluoro-5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)pyridin-2-yl)piperazine-1-carboxylate (125 mg, 0.218 mmol) was deprotected in methanol/HCl in ether (5/2.5 ml) to afford 72 mg (56.2% yield) of the titled compound after purification by prep HPLC. 1H NMR (CD3OD, 300 MHz): δ 8.646-8.640 (d, 1H), 8.56 (s, 1H), 8.419-8.415 (d, 1H), 8.28 (s, 1H), 7.97 (s, 1H), 7.94-7.93 (d, 1H), 7.77 (s, 1H), 7.36-7.33 (m, 1H), 7.11-6.98 (m, 3H), 5.42 (s, 2H), 3.80-3.77 (m, 4H), 3.40-3.31 (m, 4H). MS: m/z=472.3 (M+1), HPLC: 98.87% in method A.

reactant | tert-butyl 4-(3-fluoro-5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)pyridin-2-yl)piperazine-1-carboxylate | 0.218 mmol, 125 mg | FC=1C(=NC=C(C1)C=1C=C2C(=NC1)NC=C2C=2C=NN(C2)CC2=CC(=CC=C2)F)N2CCN(CC2)C(=O)OC(C)(C)C | C31H31F2N7O2
solvent | methanol HCl | CO.Cl
solvent | ether | 2.5 ml | CCOCC | C4H10O
product | 5-(5-fluoro-6-(piperazin-1-yl)pyridin-3-yl)-3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine | 72 mg, 56.2% yield | FC=1C=C(C=NC1N1CCNCC1)C=1C=C2C(=NC1)NC=C2C=2C=NN(C2)CC2=CC(=CC=C2)F | C26H23F2N7
